spice
* Netlist for the given circuit

* Voltage sources
Vn1 8 0 DC 0
Vn2 2 0 DC 0

* Resistors
Rx1 8 7 1000
Rx2 2 4 1000
Rc 3 8 1000
Rc_1 3 2 1000

* Dependent Current Sources
Gm1 7 6 5 0 1m
Gm2 4 6 5 0 1m

* Ground
V0 0 GND 0

.END